US05463077
1.52 g of lithium hydroxide are added to a solution, cooled to +5° C., of 4.1 g of (4S,5S)-4-methyl-5-phenyl-3-[2-(2-methoxyphenyl)-(S)-propionyl]-oxazolidin-2-one in 60 cm3 of tetrahydrofuran and 30 cm3 of water. The reaction mixture is stirred at this temperature for 3 hours and, after returning to room temperature, ethyl acetate is added, the mixture is decanted, the aqueous phase is acidified with an aqueous 1N solution of hydrochloric acid and extracted with ethyl acetate, and the organic phase is dried over magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa). The solid obtained is recrystallised from hexane, filtered off and dried. 0.4 g of (S)-2-(2-methoxyphenyl)-propionic acid is obtained in the form of white crystals which melt at 102° C. [α]D20 =+84.6° (c=1; CHCl3).

reactant | lithium hydroxide | 1.52 g | [OH-].[Li+]
reactant | (4S,5S)-4-methyl-5-phenyl-3-[2-(2-methoxyphenyl)-(S)-propionyl]-oxazolidin-2-one | 4.1 g | C[C@@H]1N(C(O[C@H]1C1=CC=CC=C1)=O)C([C@@H](C)C1=C(C=CC=C1)OC)=O | C20H21NO4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 60 cm3 | O1CCCC1 | C4H8O
solvent | water | 30 cm3 | O | H2O
product | (S)-2-(2-methoxyphenyl)-propionic acid | 0.4 g | COC1=C(C=CC=C1)[C@@H](C(=O)O)C | C10H12O3
